US08802712B2
A solution of sodium nitrite (483 mg, 6.99 mmol) in water (2.5 ml) is added dropwise over the course of 1.5 h at (−)1-0° C. to a suspension of 4-(3-amino-6-benzyloxy-7-methoxy-quinoline-4-carbonyl)benzonitrile (2.60 g, 6.35 mmol) in concentrated hydrochloric acid (50 ml). The mixture is subsequently stirred for a further 30 min. A solution of tin(II) chloride dihydrate (5.02 g, 22.23 mmol) in concentrated hydrochloric acid (3.8 ml) is then added at (−)5° C. The suspension obtained is stirred at room temperature for 1 h, subsequently diluted with water (500 ml), stirred for 30 min and filtered with suction. The filter cake is rinsed with water and dried in a high vacuum, giving 4-(8-benzyloxy-7-methoxy-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile (2.42 g, 5.95 mmol) as a solid having a melting point of 222.8° C. (decomposition). MS: 407.1 (M+H+), TLC (HPTLC): Rf=0.27 (ethyl acetate).

reactant | sodium nitrite | 6.99 mmol, 483 mg | N(=O)[O-].[Na+]
reactant | 4-(3-amino-6-benzyloxy-7-methoxy-quinoline-4-carbonyl)benzonitrile | 6.35 mmol, 2.60 g | NC=1C=NC2=CC(=C(C=C2C1C(=O)C1=CC=C(C#N)C=C1)OCC1=CC=CC=C1)OC | C25H19N3O3
reactant | tin(II) chloride dihydrate | 22.23 mmol, 5.02 g | O.O.[Sn](Cl)Cl
solvent | water | 2.5 ml | O | H2O
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | hydrochloric acid | 3.8 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 4-(8-benzyloxy-7-methoxy-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile | 5.95 mmol, 2.42 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1OC)NN=C3C3=CC=C(C#N)C=C3 | C25H18N4O2
